US08487117B2
Preparation of 5-(2-chloro-4-fluorophenyl)-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide
To a suspension of 5-(2-chloro-4-fluorophenyl)-4-methyl-1H-pyrrole-3-carboxylic acid (0.61 g, 2.4 mmol) in dichloromethane (30 ml) was added oxalyl chloride (0.41 ml, 4.8 mmol). The mixture was stirred at room temperature for 2.0 h, after which time the solvent was removed on a rotary evaporator. To this brown residue was added THF (40 ml), 4-(methanesulfonyl)aniline hydrochloride (495 mg, 2.38 mmol), and DIEA (1.6 ml, 9.5 mmol). The solution was stirred at room temperature for 20 h. The reaction mixture was concentrated on a rotary evaporator and 2N HCl (30 ml) was added to the residue. The solid was filtered and washed with 2N HCl, water and IPE to give the title compound (812 mg, 84%) as a brown solid.

reactant | 5-(2-chloro-4-fluorophenyl)-4-methyl-1H-pyrrole-3-carboxylic acid | 2.4 mmol, 0.61 g | ClC1=C(C=CC(=C1)F)C1=C(C(=CN1)C(=O)O)C | C12H9ClFNO2
reactant | oxalyl chloride | 4.8 mmol, 0.41 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(methanesulfonyl)aniline hydrochloride | 2.38 mmol, 495 mg | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | DIEA | 9.5 mmol, 1.6 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 5-(2-chloro-4-fluorophenyl)-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide | 812 mg, 84% | ClC1=C(C=CC(=C1)F)C1=C(C(=CN1)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C)C | C19H16ClFN2O3S
